$example HSPICE setup file

$transistor model
.include "/proj/cad/library/mosis/GF65_LPe/cmos10lpe_CDS_oa_dl064_11_20160415/models/YI-SM00030/Hspice/models/design.inc"
.include "XOR2.pex.netlist"


.option post runlvl=5

xi GND! OUT VDD! A B XOR2

vdd VDD! GND! 1.2v
vin_A A GND! pwl(0ns 1.2v 1ns 1.2v 1.075ns 0v 4ns 0v 4.05ns 1.2v 8ns 1.2v 8.075ns 0v 12ns 0v 12.075ns 1.2v 16ns 1.2v 16.075ns 0v)
vin_B B GND! pwl(0ns 0v 1ns 0v 1.075ns 1.2v 4ns 1.2v 4.05ns 1.2v 8ns 1.2v 8.075ns 0v 12ns 0v 12.075ns 0v 16ns 0v 16.075ns 0v)
cout OUT GND! 70f

$transient analysis
.tr 100ps 12ns
$example of parameter sweep, replace numeric value W of pfet with WP in invlvs.sp
$.tr 100ps 12ns sweep WP 1u 9u 0.5u

.measure tran trise trig v(IN) val=0.6v fall=1 targ v(OUT) val=0.6v rise=1 $measure tlh at 0.6v
.measure tran tfall trig v(IN) val=0.6v rise=1 targ v(OUT) val=0.6v fall=1 $measure tpl at 0.6v
.measure tavg param = '(trise+tfall)/2' $calculate average delay
.measure tdiff param='abs(trise-tfall)' $calculate delay difference
.measure delay param='max(trise,tfall)' $calculate worst case delay

$ method 1
.measure tran iavg avg i(vdd) from=0 to=10n $average current in one clock cycle
.measure energy param='1.2*iavg*10n' $calculate energy in one clock cycle
.measure edp1 param='abs(delay*energy)'

$ method 2
.measure tran t1 when v(IN)=1.19 fall=1
.measure tran t2 when v(OUT)=1.19 rise=1
.measure tran t3 when v(IN)=0.01 rise=1
.measure tran t4 when v(OUT)=0.01 fall=1
.measure tran i1 avg i(vdd) from=t1 to=t2 $average current when output rise
.measure tran i2 avg i(vdd) from=t3 to=t4 $average current when output fall
.measure energy1 param='1.2*i1*(t2-t1)' $calculate energy when output rise
.measure energy2 param='1.2*i2*(t4-t3)' $calculate energy when output fall
.measure energysum param='energy1+energy2'
.measure edp2 param='abs(delay*energysum)'

.end
